US04151302
A mixture of 3 g. of 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol, 5 ml. of acetic anhydride and 8 ml. of pyridine is allowed to stand for 15 hours at 20°, poured into ice water and worked up with chloroform and water to give 1-acetoxy-3-(2',4'-difluoro-4-biphenylyl)butan-3-ol.

reactant | 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)(C)O | C16H16F2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-acetoxy-3-(2',4'-difluoro-4-biphenylyl)butan-3-ol | C(C)(=O)OCCC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C18H18F2O3
